US09315521B2
2-methylquinoxaline (1 g, 6.9 mmol) was dissolved in CCl4 (15 mL), and then 1-bromopyrrolidine-2,5-dione (1.8 g, 10.4 mmol) and benzoyl benzenecarboperoxoate (1.0 g, 4.2 mmol) were added. The mixture was stirred overnight at reflux. The solids were removed by filtration. The filtrate was washed with brine and dried over sodium sulfate. After evaporation of the solvent, the residue was dissolved in DCM and purified on silica gel using 40% hexane/AcOEt to afford 2-(bromomethyl)quinoxaline (714 mg, 46% yield); 1H NMR (400 MHz, DMSO-d6): δ 4.94 (s, 2H), 7.84-7.90 (m, 2H), 8.04-8.11 (m, 2H), 9.09 (s, 1H).

reactant | 2-methylquinoxaline | 6.9 mmol, 1 g | CC1=NC2=CC=CC=C2N=C1 | C9H8N2
reactant | 1-bromopyrrolidine-2,5-dione | 10.4 mmol, 1.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl benzenecarboperoxoate | 4.2 mmol, 1.0 g | C1(=CC=CC=C1)C(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 15 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(bromomethyl)quinoxaline | 714 mg, 46% yield | BrCC1=NC2=CC=CC=C2N=C1 | C9H7BrN2
